US05807862
1-(9-Decenyl)-3,7-dimethylxanthine (3.2 g, 10.1 mmol), 4-methylmorpholine-N-oxide (1.41 g, 12 mmol), 3 drops of 2.5% osmium tetroxide solution in t-butanol, acetone (40 ml) and water (10 ml) were stirred for 24 hours. Following addition of 5 ml of a saturated solution of sodium dithionite and a further 15 minutes of stirring, the reaction mixture was extracted with four 50 ml aliquots of 25% ethanol/dichloromethane. The combined organic portions were dried over sodium sulfate. Evaporating the solvents left a white solid residue, which upon recrystallization in ethanol produced 3.3 g of 1-(9,10-dihydroxydecyl)-3,7-dimethylxanthine (93% yield).

reactant | 1-(9-Decenyl)-3,7-dimethylxanthine | 10.1 mmol, 3.2 g | C(CCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C17H26N4O2
reactant | 4-methylmorpholine-N-oxide | 12 mmol, 1.41 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | t-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | 3 drops | [Os](=O)(=O)(=O)=O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 1-(9,10-dihydroxydecyl)-3,7-dimethylxanthine | 3.3 g, 93% yield | OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C17H28N4O4
